US07906645B2
N-(3,4-Dichlorophenyl)-4-(morpholin-2-ylcarbonyl)piperazine-1-carboxamide
Trifluoroacetic acid/dichloromethane (1:1, 10 ml) was added to tert-butyl 2-[(4-{[(3,4-dichlorophenyl)amino]carbonyl}piperazin-1-yl)carbonyl]morpholine-4-carboxylate (900 mg, impure) followed by stirring for 30 min. The solvent was removed under reduced pressure then taken up in 1M. NaOH (aq.) (30 ml) and extracted with ethyl acetate (3×30 ml). The combined organic layers were dried (MgSO4), filtered and evaporated to form the title compound (700 mg) as a white foam which was used without further purification.

reactant | tert-butyl 2-[(4-{[(3,4-dichlorophenyl)amino]carbonyl}piperazin-1-yl)carbonyl]morpholine-4-carboxylate | 900 mg | ClC=1C=C(C=CC1Cl)NC(=O)N1CCN(CC1)C(=O)C1CN(CCO1)C(=O)OC(C)(C)C | C21H28Cl2N4O5
solvent | Trifluoroacetic acid dichloromethane | 10 ml | FC(C(=O)O)(F)F.ClCCl
product | N-(3,4-Dichlorophenyl)-4-(morpholin-2-ylcarbonyl)piperazine-1-carboxamide | 700 mg | ClC=1C=C(C=CC1Cl)NC(=O)N1CCN(CC1)C(=O)C1CNCCO1 | C16H20Cl2N4O3
